### PR TITLE
def: 1-category Monad(C)

### PR DESCRIPTION
**Pull request by favonia**
# Description

Define the 1-category of monads.

## Checklist

Before submitting a merge request, please check the items below:

- [x] I've read [the contributing guidelines](https://github.com/plt-amy/1lab/blob/main/CONTRIBUTING.md).
- [x] The imports of new modules have been sorted with `support/sort-imports.hs` (or `nix run --experimental-features nix-command -f . sort-imports`).
- [x] All new code blocks have "agda" as their language.

### CODE REVIEW

**Comment by favonia** [comment]
This is a draft now because I have never written anything serious in 1lab and thus I want to see the preview.

**Comment by Lavenza** [comment]
[Pull request preview](https://preview.1lab.dev/381)

File: src/Cat/Instances/Monads.lagda.md [hunk 1]
```diff
@@ -65,7 +65,7 @@ following two diagrams commute, where $\blacklozenge$ is the
   \arrow["{\nu}"', from=3-1, to=3-3]
   \arrow["{\eta_M}"', from=1-1, to=3-1]
   \arrow["{\eta_N}", from=1-3, to=3-3]
-  \arrow["{\nu\blacklozenge\nu}", from=1-5, to=1-7]
+  \arrow["{\nu\mathbin{\blacklozenge}\nu}", from=1-5, to=1-7]
```
Comment (favonia) [inline src/Cat/Instances/Monads.lagda.md:68]: To be honest, `mathbin` doesn't seem to help. :cry:

**Review by ncfavier — COMMENTED** [review]
Looks pretty good!

File: src/Cat/Instances/Monads.lagda.md [hunk 2]
```diff
@@ -0,0 +1,187 @@
...
+open Precategory
+open Functor
+```
+-->
+
+# Categories of Monads {defines="category-of-monads"}
+
+The **category of monads** of a category $\cC$ consists of [[monads]]
+on $\cC$ and natural transformations preserving the monadic structure.
+In terms of the bicategory of [monads in a bicategory], a morphism
```
Comment (ncfavier) [inline src/Cat/Instances/Monads.lagda.md:30]: Prefer wikilinks:

```suggestion
In terms of the bicategory of [[monads in a bicategory|monad in]], a morphism
```

Please also don't hesitate to add useful anchors to pages. You can do this with the `defines` attribute of a header, or create a `.definition` block like [here](https://github.com/plt-amy/1lab/blob/68ba831153062b36cebcaf951ba34a138570dbc9/src/Cat/Functor/Adjoint.lagda.md#L51).

File: src/Cat/Instances/Monads.lagda.md [hunk 3]
```diff
@@ -0,0 +1,187 @@
...
+in the 1-categorical version always has the identity functor as the
+underlying 1-cell.
```
[the remark this answers is not in the document]
Comment (favonia) [reply src/Cat/Instances/Monads.lagda.md:32]: Thanks. I think I was trying to express the same idea but didn't know the terminology.

File: src/Cat/Instances/Monads.lagda.md (hunk 2 above)
Comment (favonia) [reply src/Cat/Instances/Monads.lagda.md:30]: Thanks. My hesitation is that "monad in" doesn't look like a good name for this?

Comment (ncfavier) [reply src/Cat/Instances/Monads.lagda.md:30]: It's the smallest group of words that unambiguously identifies a monad in a bicategory, as opposed to a monad *on* a category.

File: src/Cat/Instances/Monads.lagda.md (hunk 1 above)
Comment (favonia) [reply src/Cat/Instances/Monads.lagda.md:70]: @ncfavier I found the `\mathbin{\blacklozenge}` super ugly. I tried to use the black diamond because of the Agda code. Any suggestion about this?

Comment (ncfavier) [reply src/Cat/Instances/Monads.lagda.md:70]: Yeah I don't know what's up with the spacing. Seems like a tikz-cd bug. Probably fine as is

File: src/Cat/Instances/Monads.lagda.md (hunk 2 above)
Comment (favonia) [reply src/Cat/Instances/Monads.lagda.md]: Oh NVM I see that it's the name of the current anchor.

Comment (favonia) [reply src/Cat/Instances/Monads.lagda.md]: Hmm `[[monads in $\Cat$|monad in]]` is giving errors. I will try to use a "plainer" link :laughing:

Comment (favonia) [reply src/Cat/Instances/Monads.lagda.md]: Actually, that is not the culprit, ha!

File: src/Cat/Instances/Monads.lagda.md [hunk 4]
```diff
@@ -0,0 +1,183 @@
...
+-->
+
+# Categories of Monads {defines="category-of-monads"}
+
+The **category of monads** of a category $\cC$ consists of [[monads]]
+on $\cC$ and natural transformations preserving the monadic structure.
+In terms of the bicategory of [[monads in $\Cat$|monad in]], a morphism
+in the 1-categorical version always has the identity functor as the
+underlying 1-cell. That is, this 1-category of monads on is the
+"2-fibre" of the displayed bicategory of monads in $\Cat$ over $\cC$.
```
Comment (ncfavier) [inline src/Cat/Instances/Monads.lagda.md:33]: Actually maybe just
```suggestion
fibre of the displayed bicategory of monads in $\Cat$ over $\cC$.
```

File: src/Cat/Instances/Monads.lagda.md [hunk 5]
```diff
@@ -0,0 +1,183 @@
...
+```
+-->
+
+# Categories of Monads {defines="category-of-monads"}
+
+The **category of monads** of a category $\cC$ consists of [[monads]]
+on $\cC$ and natural transformations preserving the monadic structure.
+In terms of the bicategory of [[monads in $\Cat$|monad in]], a morphism
+in the 1-categorical version always has the identity functor as the
+underlying 1-cell. That is, this 1-category of monads on is the
```
Comment (ncfavier) [inline src/Cat/Instances/Monads.lagda.md:32]:
```suggestion
underlying 1-cell. That is, this 1-category of monads on $\cC$ is the
```

File: src/Cat/Instances/Monads.lagda.md [hunk 6]
```diff
@@ -0,0 +1,183 @@
...
+<!--
+```agda
+private variable
+  o h : Level
+open Precategory
+open Functor
+```
+-->
+
+# Categories of Monads {defines="category-of-monads"}
```
Comment (ncfavier) [inline src/Cat/Instances/Monads.lagda.md:26]:
```suggestion
# Categories of monads {defines="category-of-monads"}
```

File: src/Cat/Instances/Monads.lagda.md [hunk 7]
```diff
@@ -0,0 +1,183 @@
...
+      (ν.nat ∘nt ξ.nat) ∘nt M.mult                       ≡˘⟨ Endo.assoc ν.nat ξ.nat M.mult ⟩
+      ν.nat ∘nt (ξ.nat ∘nt M.mult)                       ≡⟨ ap (ν.nat ∘nt_) ξ.pres-mult ⟩
+      ν.nat ∘nt (N.mult ∘nt (ξ.nat ◆ ξ.nat))             ≡⟨ Endo.assoc ν.nat N.mult (ξ.nat ◆ ξ.nat) ⟩
+      (ν.nat ∘nt N.mult) ∘nt (ξ.nat ◆ ξ.nat)             ≡⟨ ap (_∘nt (ξ.nat ◆ ξ.nat)) ν.pres-mult ⟩
+      (O.mult ∘nt (ν.nat ◆ ν.nat)) ∘nt (ξ.nat ◆ ξ.nat)   ≡˘⟨ Endo.assoc O.mult (ν.nat ◆ ν.nat) (ξ.nat ◆ ξ.nat) ⟩
+      O.mult ∘nt ((ν.nat ◆ ν.nat) ∘nt (ξ.nat ◆ ξ.nat))   ≡˘⟨ ap (O.mult ∘nt_) $ Endo-∘.F-∘ (ν.nat , ν.nat) (ξ.nat , ξ.nat) ⟩
+      O.mult ∘nt ((ν.nat ∘nt ξ.nat) ◆ (ν.nat ∘nt ξ.nat)) ∎
+```
+
+Putting these together, we have the 1-category of monads.
```
Comment (ncfavier) [inline src/Cat/Instances/Monads.lagda.md:171]:
```suggestion
Putting these together, we have the category of monads.
```

Bonus points (totally optional, maybe for another PR): prove that this category is univalent if $\mathcal{C}$ is.

File: src/Cat/Instances/Monads.lagda.md (hunk 5 above)
Comment (favonia) [reply src/Cat/Instances/Monads.lagda.md]: @ncfavier nbh I'm not completely sure if it reads better with this repetition (because there's already "this"), but I'm not against it either. Either is fine I guess.

Comment (ncfavier) [reply src/Cat/Instances/Monads.lagda.md]: Sure, but "monads on is" was not grammatical.

Comment (favonia) [reply src/Cat/Instances/Monads.lagda.md]: Oh, that was my mistake when copying your suggested text :laughing:

**Review by ncfavier — APPROVED** [review]

**Comment by favonia** [comment]
@ncfavier Question: should I write "id", "Id", or "1" for identity functors and identity natural transformations? I checked a few more pages and found that it's not entirely consistent. :thinking:

**Comment by ncfavier** [comment]
"Id" is fine

**Review by plt-amy — APPROVED** [review]
